US05141957
EXAMPLE 4 1,4-BIS-(3-BENZYLAMINO-2-HYDROXYPROPYLAMINO)-9, 10 ANTRACENEDIONE HYDROCHLORIDE SALT (COMPOUND 1b IN TABLE 1)
To a solution of 1,4-bis-(3-chloro-2-hydroxypropylamino)-9, 10-anthracenedione (1 g, 2.36 mmole), benzylamine (2.02 g, 18.88 mmole), and potassium iodide (0.25 g, 153 mmole) in a solution of methanol (40 mL) and dichloromethane (5 mL), which had been heated at reflux for 5 hours, was added potassium carbonate (0.7 g, 5.06 mmole). The reaction was heated at reflux for an additional 16 hours. Solvent was removed and the blue product was dissolved in dichloromethane and washed three times with water. The organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure. The blue free base product was purified by column chromatography (silica gel, dichloromethane with an increasing methanol gradient). The title product 1,4-Bis-(3-Benzylamino-2-Hydroxypropylamino)-9, 10 anthracenedione. Hydrochloride salt (610 mg, 42% yield) was formed by bubbling hydrochloride gas through a stirring solution of the free base in acetone until a color change was noted, mp 86°-89° C.; NMR (CDCl3) δ 2.76 (m, 2H, CH2) 2.90 (m, 2H CH2), 3.43 (m, 6H, CH2 and OH), 3.85 (d, J=4.3 Hz, 4H, CH2), 4.04 (m, 2H, CH), 7.15 (s, 2H, Ar (2, 3)), 7.31 (m, 10H, Ar (Benzyl)), 7.64 (m, 2H, Ar (6 ,7)), 8.22 (m, 2H, Ar (5, 8)), 10.82 (b, 2H, NH); Anal. Calcd for C34H37N4O4 ×HCl: C, 67.93; H, 6.20; N, 9.32. Found: C, 68.21; H, 6.14; N, 9.02.

reactant | 1,4-bis-(3-chloro-2-hydroxypropylamino)-9, 10-anthracenedione | 2.36 mmole, 1 g | ClCC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CCl)O)O | C20H20Cl2N2O4
reactant | benzylamine | 18.88 mmole, 2.02 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium iodide | 153 mmole, 0.25 g | [I-].[K+]
reactant | potassium carbonate | 5.06 mmole, 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 40 mL | CO | CH4O
product | 1,4-Bis-(3-Benzylamino-2-Hydroxypropylamino)-9, 10 anthracenedione. Hydrochloride salt | 610 mg, 42% yield | Cl.C(C1=CC=CC=C1)NCC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CNCC1=CC=CC=C1)O)O | InChI=1S/C34H36N4O4.ClH/c39-25(19-35-17-23-9-3-1-4-10-23)21-37-29-15-16-30(38-22-26(40)20-36-18-24-11-5-2-6-12-24)32-31(29)33(41)27-13-7-8-14-28(27)34(32)42;/h1-16,25-26,35-40H,17-22H2;1H
